US08067457B2
Rel-({(3S,4S)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]-4-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-3-yl}oxy)acetic Acid (82)
To a solution of benzyl rel-({(3R,4R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]-4-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-3-yl}oxy)acetate in methanol (400 μL) was added and Palladium (10%) on Carbon (50 mg) the was purged with hydrogen gas for two minutes; the reaction was then subjected to 1 atmosphere of hydrogen gas for two hours. The flask was purged with argon; the mixture was filtered, then purified by preparative HPLC to afford rel-({(3S,4S)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]-4-[({[3-trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-3-yl}oxy)acetic acid. 1H-NMR (CDCl3) δ: 1.10-1.25 (m, 2H), 1.80-2.40 (m, 4H), 2.50-2.70 (m, 2H), 2.95-3.15 (m, 1H), 3.20-3.35 (m, 1H), 3.40-3.80 (m, 4H), 3.85 (s, 3H), 3.90-4.40 (m, 5H), 4.40-60 (m, 2H), 6.62 (t, J=7.8 Hz, 1H), 7.10-7.15 (m, 1H), 7.38-7.58 (m, 1H), 7.60 (m, 2H), 8.00-8.25 (m, 2H), 9.45 (bs, 1H). MS m/z: 581 (M+1).

reactant | benzyl rel-({(3R,4R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]-4-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-3-yl}oxy)acetate | COC1=CC=C(C=N1)N1CCC(CC1)N1C[C@H]([C@@H](C1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)OCC(=O)OCC1=CC=CC=C1 | C34H38F3N5O6
solvent | methanol | 400 μL | CO | CH4O
product | Rel-({(3S,4S)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]-4-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-3-yl}oxy)acetic Acid | COC1=CC=C(C=N1)N1CCC(CC1)N1C[C@@H]([C@H](C1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)OCC(=O)O | C27H32F3N5O6
